US07615648B2
To a stirred suspension of lithium aluminum hydride (4.12 g, 0.108 mol) in dry tetrahydrofuran under an atmosphere of nitrogen cooled to 5° C. is added a solution of ethyl 4-chloro-2-ethoxybenzoate (12.4 g, 54.24 mmol) in dry tetrahydrofuran (20 ml) dropwise over 15 min. The suspension is stirred at room temperature overnight then cooled to 0° C. and water (4.12 ml), aq. 15% sodium hydroxide (4.12 ml) and water (12.4 ml) added dropwise. The resulting suspension is filtered through celite and washed with ethyl acetate. Evaporate to give a colourless oil that crystallises on standing, triturate with iso-hexane and filter to give 4-chloro-2-ethoxybenzyl alcohol as a colourless solid.

reactant | lithium aluminum hydride | 0.108 mol, 4.12 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | ethyl 4-chloro-2-ethoxybenzoate | 54.24 mmol, 12.4 g | ClC1=CC(=C(C(=O)OCC)C=C1)OCC | C11H13ClO3
reactant | water | 4.12 ml | O | H2O
reactant | sodium hydroxide | 4.12 ml | [OH-].[Na+]
reactant | water | 12.4 ml | O | H2O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 4-chloro-2-ethoxybenzyl alcohol | ClC1=CC(=C(CO)C=C1)OCC | C9H11ClO2
